US05223539
4-bromo-N-cyclohexyl-N-isopropylbenzamide
To a stirred, cold (0° C.) solution of 4-bromobenzoyl chloride (5.305 g, 24.2 mmol) in tetrahydrofuran (20 ml) was added dropwise a solution of isopropyl cylcohexyl amine (6.841 g, 48.4 mmol) in tetrahydrofuran (THF) (7ml). After stirring for 1 hr at 0° C., the reaction was stirred at room temperature for 3 hr. and reflexed for 3 hr. The reaction was concentrated in vacuo and the residual mass was dissolved in ethyl ether and water. The layers were separated and the organic layer washed once with water, twice with 0.5N HCl, once more with water, twice with 5% aqueous NaHCO3 solution, and once with water. After drying over sodium sulfate, the organic layer was filtered, and the filtrate concentrated in vacuo to give the crude product. This material was purified by chromatography on silica el suing mixtures of EtOAc, and hexane as eluents to give the title compound.

reactant | 4-bromobenzoyl chloride | 24.2 mmol, 5.305 g | BrC1=CC=C(C(=O)Cl)C=C1 | C7H4BrClO
reactant | isopropyl cylcohexyl amine | 48.4 mmol, 6.841 g | C(C)(C)NC1CCCCC1 | C9H19N
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 7ml | O1CCCC1 | C4H8O
product | 4-bromo-N-cyclohexyl-N-isopropylbenzamide | BrC1=CC=C(C(=O)N(C(C)C)C2CCCCC2)C=C1 | C16H22BrNO
